US09145392B2
4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-(2-hydroxy-ethyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile (22.8 mg; 0.47 mmol; 1.00 eq) was dissolved in dichloromethane (10.00 mL) and chilled to −78° C. The solution was charged with triethylamine (0.20 mL; 1.41 mmol; 3.00 eq) and methanesulfonyl chloride (0.05 mL; 0.70 mmol; 1.50 eq). The reaction was stirred, cold, for 1 hour, then allowed to warm to ambient temperature. The reaction mixture was quenched by dropwise addition of sodium bicarbonate (saturated aq; 10 mL). The organic layer was separated, dried over sodium sulphate, filtered and concentrated to yield methanesulfonic acid 2-[2-[1-(6-amino-5-cyano-pyrimidin-4-yl)-piperidin-4-yl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-imidazol-1-yl]-ethyl ester (259 mg; 0.47 mmol; 99.8%). LC-MS: (M+1=554, obsd.=554).

reactant | 4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-(2-hydroxy-ethyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | 0.47 mmol, 22.8 mg, 1.00 eq | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCO | C22H21F4N7O
reactant | triethylamine | 1.41 mmol, 0.20 mL, 3.00 eq | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.70 mmol, 0.05 mL, 1.50 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10.00 mL | ClCCl | CH2Cl2
product | methanesulfonic acid 2-[2-[1-(6-amino-5-cyano-pyrimidin-4-yl)-piperidin-4-yl]-4-(4-fluoro-3-trifluoromethyl-phenyl)-imidazol-1-yl]-ethyl ester | 0.47 mmol, 259 mg, 99.8% | NC1=C(C(=NC=N1)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCOS(=O)(=O)C)C#N | C23H23F4N7O3S
